US09085575B2
8 mL of trifluoroacetic acid is added to a solution of 220 mg (0.45 mmol) of ethyl 4-(2-(benzyloxycarbonylamino)ethyl)-6-(4-methoxyphenyl)-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate dissolved in 5 mL of dichloromethane. The reaction medium is stirred at room temperature for 3 hours and then quenched by addition of 1M soda until pH=8 is reached. The product is extracted with ethyl acetate. The organic phases are dried on magnesium sulfate and concentrated to yield ethyl 4-(2-aminoethyl)-6-(4-methoxyphenyl)-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate in the form of a yellow oil. The latter is dissolved in 10 mL of anhydrous tetrahydrofurane before adding 15 mg of sodium hydride (60% dispersion in oil). The reaction medium is stirred at 25° C. for 48 hours. The product is extracted with ethyl acetate. The organic phases are dried on magnesium sulfate and concentrated to yield 123 mg (88%) of 5-(4-methoxyphenyl)-1-methyl-8,9-dihydro-3H-pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one in the form of a yellow oil.

reactant | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl 4-(2-(benzyloxycarbonylamino)ethyl)-6-(4-methoxyphenyl)-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 0.45 mmol, 220 mg | C(C1=CC=CC=C1)OC(=O)NCCC1=C2C(=NC(=C1C(=O)OCC)C1=CC=C(C=C1)OC)NN=C2C | C27H28N4O5
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | ethyl 4-(2-aminoethyl)-6-(4-methoxyphenyl)-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | NCCC1=C2C(=NC(=C1C(=O)OCC)C1=CC=C(C=C1)OC)NN=C2C | C19H22N4O3
